US05248803
In a 100 ml three-neck flask provided with a magnetic stirrer and a reflux condenser were charged 10.1 g (0.0531 mole) of cyclopentyl trimethoxysilane, 30.6 g (0.347 mole) of tert-amyl alcohol and 86.4 mg (1.6 m mole) of sodium methoxide, which were then reacted with each other in an oil bath of 105° C. for 4 hours under stirring. Then, trimethylchlorosilane was added to neutralize the alkali. Then, 10.7 g (0.0434 mole) of tert-amyloxy cyclopentyl dimethoxysilane were obtained by vacuum distillation. Its structure was confirmed as in Example 1. The yield was 82%.

reactant | cyclopentyl trimethoxysilane | 0.0531 mole, 10.1 g | C1(CCCC1)[Si](OC)(OC)OC | C8H18O3Si
reactant | tert-amyl alcohol | 0.347 mole, 30.6 g | C(C)(C)(CC)O | C5H12O
reactant | trimethylchlorosilane | C[Si](Cl)(C)C | C3H9ClSi
catalyst | sodium methoxide | 86.4 mg | C[O-].[Na+]
product | tert-amyloxy cyclopentyl dimethoxysilane | 0.0434 mole, 10.7 g, yield was 82% | C(C)(C)(CC)O[Si](OC)(OC)C1CCCC1 | C12H26O3Si
